US08022062B2
2-(2-Fluoro-4-phenoxy-benzyloxy)-tetrahydro-pyran:
Mix under argon atmosphere 2-(4-bromo-2-fluorobenzyloxy)-tetrahydropyran (2.9 g, 10 mmol), phenol (1.9 g, 20 mmol), 2,2,6,6-tetramethylheptane-3,5-dione (184.3 mg, 1.0 mmol), cesium carbonate (6.5 g, 20 mmol) and anhydrous NMP (20 mL). Degas the flask and fill with argon. Add copper(I) chloride (495 mg, 5 mmol) quickly. Degas the flask three times then fill with argon. Heat at 120° C. for 3 h. Cool to ambient temperature. Dilute with EtOAc and filter. Concentrate in vacuo and purify by chromatography on silica gel to obtain the desired intermediate (2.05 g, 68%). MS (ES+) m/z: 325 (M+Na)+.

reactant | 2-(4-bromo-2-fluorobenzyloxy)-tetrahydropyran | 10 mmol, 2.9 g | BrC1=CC(=C(COC2OCCCC2)C=C1)F | C12H14BrFO2
reactant | phenol | 20 mmol, 1.9 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 1.0 mmol, 184.3 mg | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 20 mmol, 6.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper(I) chloride | 5 mmol, 495 mg | [Cu]Cl
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | 2-(2-Fluoro-4-phenoxy-benzyloxy)-tetrahydro-pyran | 2.05 g, 68% | FC1=C(COC2OCCCC2)C=CC(=C1)OC1=CC=CC=C1 | C18H19FO3
